US07816557B2
Step B. Racemic 3-[4-(1-Hydroxy-nonyl)-benzoylamino]-propionic acid methyl ester
To a solution of 3-(4-formyl-benzoylamino)-propionic acid methyl ester (1.2 g, 5 mmol) in THF (10 mL) at 0° C. is added ethylmagnesium bromide (2M, 1.1 mL). After stirring at room temperature for 2 hours, it is quenched with saturated ammonium chloride, extracted with EtOAc. The organic is concentrated to give the titled compound as colorless oil: 270 mg (15%).

reactant | 3-(4-formyl-benzoylamino)-propionic acid methyl ester | 5 mmol, 1.2 g | COC(CCNC(C1=CC=C(C=C1)C=O)=O)=O | C12H13NO4
reactant | ethylmagnesium bromide | 2M, 1.1 mL | C(C)[Mg]Br
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Racemic 3-[4-(1-Hydroxy-nonyl)-benzoylamino]-propionic acid methyl ester | COC(CCNC(C1=CC=C(C=C1)C(CCCCCCCC)O)=O)=O | C20H31NO4
